US07015185B2
Synthesis of (cyanomethyl)-di-n-hexylmethylammonium Benzenesulfonate
18.0 g (0.08 mol) of dihexylaminoacetonitrile were initially introduced into 50 ml of ethyl acetate. 13.8 g (0.08 mol) of methyl benzenesulfonate were added dropwise to this solution at room temperature over the course of 10 min. The mixture was stirred for 24 hours at room temperature, and the clear solution was concentrated by evaporation on a rotary evaporator. The residue was stirred out with diethyl ether and the precipitated solid was filtered off with suction. It was washed with diethyl ether and then dried at 50° C. in a vacuum drying cabinet. This gave 20.5 g (0.052 mol) of (cyanomethyl)-di-n-methylammonium benzenesulfonate of a white powder, corresponding to a yield of 65%.

reactant | dihexylaminoacetonitrile | 0.08 mol, 18.0 g | C(CCCCC)N(CCCCCC)CC#N | C14H28N2
reactant | methyl benzenesulfonate | 0.08 mol, 13.8 g | C1(=CC=CC=C1)S(=O)(=O)OC | C7H8O3S
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | (cyanomethyl)-di-n-hexylmethylammonium Benzenesulfonate | yield of 65% | C1(=CC=CC=C1)S(=O)(=O)[O-].C(#N)C[N+](C)(CCCCCC)CCCCCC | InChI=1S/C15H31N2.C6H6O3S/c1-4-6-8-10-13-17(3,15-12-16)14-11-9-7-5-2;7-10(8,9)6-4-2-1-3-5-6/h4-11,13-15H2,1-3H3;1-5H,(H,7,8,9)/q+1;/p-1
